US08748645B2
Siliconate from methyltri-methoxysilane/trimethylmethoxysilane/KOH (0.9:0.1:0.65)
A 500 ml 5-neck round-bottom flask, rendered inert with nitrogen and equipped with paddle stirrer, dropping funnel, thermometer, and water separator with reflux condenser, is charged with 70 g (0.5 mol) of methyl-trimethoxysilane (available commercially from Wacker Chemie AG), 6 g (0.05 mol) of trimethylmethoxysilane (prepared in the laboratory by reacting trimethyl-chlorosilane with methanol), and 98.6 g of Isopar E (isoparaffinic hydrocarbon mixture having a boiling range of 113-143° C., available commercially from ExxonMobil). The water separator is filled to the brim with Isopar E. Accompanied by stirring at 300 rpm, a solution of 40.5 g of 50% strength aqueous potassium hydroxide solution (0.36 mol of potassium hydroxide) and 3.2 g of demineralized water is metered in over 6 minutes. During this metered addition, the mixture heats up to 63° C. The mixture is heated to boiling temperature (70° C.). The distillate separates out as the bottom phase in the water separator. Up to a boiling temperature of 118° C., 60.3 g of colorless, slightly turbid distillate are accumulated, and—according to analysis by gas chromatography—contains 84 area % of methanol, 10.8 area % of water, 3.3 area % of Isopar E, and 0.8 area % of trimethylmethoxysilane. The suspension which remains is subsequently evaporated to dryness with stirring under a full oil-pump vacuum (5 hPa) to 70° C. This gives 55.9 g of fine, white, free-flowable powder with a solids content of 99.9% (determined using the HR73 halogen moisture analyzer from Mettler Toledo at 160° C.). A 50% strength aqueous solution prepared with this powder exhibits no precipitation even after being stored at room temperature for two weeks in the absence of air.

reactant | methyl-trimethoxysilane | 0.5 mol, 70 g | C[Si](OC)(OC)OC | C4H12O3Si
reactant | trimethylmethoxysilane | 0.05 mol, 6 g | C[Si](OC)(C)C | C4H12OSi
reactant | trimethyl-chlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | potassium hydroxide | 0.36 mol | [OH-].[K+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 3.2 g | O | H2O
product | methyltri-methoxysilane trimethylmethoxysilane KOH | C[Si](OC)(OC)OC.C[Si](OC)(C)C.[OH-].[K+] | InChI=1S/C4H12O3Si.C4H12OSi.K.H2O/c1-5-8(4,6-2)7-3;1-5-6(2,3)4;;/h1-4H3;1-4H3;;1H2/q;;+1;/p-1
